US08461179B1
A mixture of 1-(4-chloro-5-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-cyanophenyl)urea (0.210 g, 0.423 mmol), t-butyl X-Phos (0.020 g, 0.047 mmol), Pd2(dba)3 (0.020 g, 0.022 mmol), Cs2CO3 (0.400 g, 1.228 mmol) and methylamine (2.0M in THF, 4.0 mL, 8.0 mmol) in dioxane (5 mL) was heated at 90° C. for 5 h, then cooled to RT stirred overnight. The solids were removed via filtration, washed with DCM, then MeCN and the filtrate concentrated to dryness and purified via silica gel chromatography (EtOAc/DCM) to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-cyanophenyl)urea (33 mg, 15% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.40 (s, 1H), 8.83 (s, 1H), 8.41 (s, 1H), 8.13 (d, J=8.6 Hz, 1H), 7.97 (t, J=1.8 Hz, 1H), 7.74 (s, 1H), 7.61-7.45 (m, 4H), 7.05 (d, J=5.1 Hz, 1H), 6.24 (s, 1H), 4.14 (d, J=7.4 Hz, 2H), 2.86 (d, J=4.9 Hz, 3H), 1.21 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 491.1 [M+H]+.

reactant | 1-(4-chloro-5-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-cyanophenyl)urea | 0.423 mmol, 0.210 g | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)Cl)CC)=O)NC(=O)NC1=CC(=CC=C1)C#N)F | C24H16Cl2FN5O2
reactant | t-butyl X-Phos | 0.047 mmol, 0.020 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C | C29H45P
reactant | Cs2CO3 | 1.228 mmol, 0.400 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methylamine | 8.0 mmol, 2.0M, 4.0 mL | CN | CH5N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.022 mmol, 0.020 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-cyanophenyl)urea | 33 mg, 15% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC=C1)C#N)F | C25H20ClFN6O2
